US04861783
2-(1,1'-Biphenyl-4-yl)-5-chloro-3-methylquinoline-4-carboxylic acid
A mixture of 4-chloroisatin (7.28 g, 0.04 mol), [J. Am. Chem. Soc., 1251 (1956)], 4-phenylpropiophenone (8.8 g, 0.04 mol), diethylamine (4 ml, 0.04 mol) and ethanol (200 ml) was stirred for a period of 18 hours at room temperature. The precipitated solids were collected by filtration, washed with ice-cold ethanol and air dried to yield the adduct (9.1 g, 58%) m.p. 209°-214° dec.

reactant | 4-chloroisatin | 0.04 mol, 7.28 g | ClC1=C2C(C(NC2=CC=C1)=O)=O | C8H4ClNO2
reactant | 4-phenylpropiophenone | 0.04 mol, 8.8 g | CCC(=O)C1=CC=C(C=C1)C2=CC=CC=C2 | C15H14O
reactant | diethylamine | 0.04 mol, 4 ml | C(C)NCC | C4H11N
reactant | ethanol | 200 ml | C(C)O | C2H6O
product | 2-(1,1'-Biphenyl-4-yl)-5-chloro-3-methylquinoline-4-carboxylic acid | 9.1 g, 58% | C1(=CC=C(C=C1)C1=NC2=CC=CC(=C2C(=C1C)C(=O)O)Cl)C1=CC=CC=C1 | C23H16ClNO2
